US07323538B2
Fluorene (30.4764 g, 183.5928 mmol), FeCl3 (0.5 eq., 14.7517 g) and CS2 (300 ml) were introduced to a three-neck 1 liter flask fitted with a mechanical stirrer and hydrogen chloride trap which had been flame-dried and filled with nitrogen, and stirred. t-BuCl (2.5 eq., 50 ml) was dripped into this solution during 10 minutes. The reaction solution was stirred at room temperature for 7 hours, then water was added to quench the reaction. Next, the organic layer was extracted twice with methylene chloride, the extracted organic layer was washed with saturated salt solution, and dried using MgSO4. The dried solution was filtered, and was concentrated under reduced pressure to give a crude product (49.4598 g, brown solid). This crude product was refined by silica gel column chromatography (hexane), and the target product 2,7-di-t-butylfluorene (43.6058 g, 85%, white solid) was thus obtained. For the reaction, no further purification was carried out, but for measurement of analysis data, a sample which had been recrystallized from EtOH was used.

reactant | Fluorene | 183.5928 mmol, 30.4764 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | CS2 | 300 ml | C(=S)=S | CS2
reactant | t-BuCl | 50 ml, 2.5 eq. | C(C)(C)(C)Cl | C4H9Cl
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 2,7-di-t-butylfluorene | 43.6058 g, 85% | C(C)(C)(C)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(C)(C)C | C21H26
